US04695581
2,6-Dimethylanisole and n-hexanoyl chloride were treated in the same way as in step (a) of Example 30 to give 4-n-hexanoyl-2,6-dimethylanisole.

reactant | 2,6-Dimethylanisole | CC1=C(C(=CC=C1)C)OC | C9H12O
reactant | n-hexanoyl chloride | C(CCCCC)(=O)Cl | C6H11ClO
product | 4-n-hexanoyl-2,6-dimethylanisole | C(CCCCC)(=O)C1=CC(=C(C(=C1)C)OC)C | C15H22O2
